US04383031
Preparation of biotin-isoluminol conjugate.
Biotin (0.29 g, 1.2 mmole) and 0.17 ml triethylamine were dissolved in 20 ml dry dimethylformamide under anhydrous conditions and cooled to -10° C. A solution of 0.141 ml ethylchloroformate in 2.86 ml ether was added slowly and the reaction was stirred for 30 min. A precipitate which formed was separated by filtration. A suspension consisting of 600 mg (2.4 mmole) of the intermediate from Part C, 20 ml dry dimethylformamide and 1 ml dry pyridine was added to the filtrate quickly. This mixture was stirred at -10° C. for 30 min and then at room temperature overnight. During this period a solution was obtained. The dimethylformamide was removed by distillation at 60° C. and 0.10 mm Hg pressure. The oily residue was stirred with 50 ml 0.1 N hydrochloric acid for 1 hr. A white solid which formed was filtered and washed with 0.1 N hydrochloric acid and then water. After drying under a vacuum at room temperature overnight, 0.55 g (97% yield) of the product was obtained, m.p. 170°-3° C. Calculated for C21H28N6O5S: C,52.92; H,5,92; N,17.64. Found: C,51.69; H,5.90; N,17.63.

reactant | Biotin | 1.2 mmole, 0.29 g | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
reactant | triethylamine | 0.17 ml | C(C)N(CC)CC | C6H15N
reactant | ethylchloroformate | 0.141 ml | C(C)OC(=O)Cl | C3H5ClO2
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ether | 2.86 ml | CCOCC | C4H10O
product | biotin isoluminol | 0.55 g, 97% yield | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12.C1=CC2=C(C=C1N)C(=O)NNC2=O | InChI=1S/C10H16N2O3S.C8H7N3O2/c13-8(14)4-2-1-3-7-9-6(5-16-7)11-10(15)12-9;9-4-1-2-5-6(3-4)8(13)11-10-7(5)12/h6-7,9H,1-5H2,(H,13,14)(H2,11,12,15);1-3H,9H2,(H,10,12)(H,11,13)/t6-,7-,9-;/m0./s1
